US05849911
49b) 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane hydrochloride
Analogously to Example 37f), 30 ml of 4M HCl in dioxane are added to 3.5 g (5.65 mmol) of 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-Boc-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane and the mixture is diluted with 5 ml of DMF. After 3.5 hours, the mixture is worked up. The title compound is obtained: TLC: Rf =0.53 (methylene chloride/methanol: 9/1); HPLC20-100 : tRet =8.00; FAB MS (M+H)+ =520.

reactant | HCl | 4M, 30 ml | Cl | ClH
reactant | 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-Boc-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | 5.65 mmol, 3.5 g | N1=C(C=CC=C1)C1=CC=C(C=C1)C(N(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)C(=O)OC(C)(C)C)N | C34H45N5O6
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane hydrochloride | Cl.N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)N | InChI=1S/C29H37N5O4.ClH/c1-20(2)27(33-29(37)38-3)28(36)32-25(17-21-9-5-4-6-10-21)26(35)19-34(30)18-22-12-14-23(15-13-22)24-11-7-8-16-31-24;/h4-16,20,25-27,35H,17-19,30H2,1-3H3,(H,32,36)(H,33,37);1H/t25-,26-,27-;/m0./s1
